US07745663B2
To a known compound, 3-(1-ethoxy-ethylideneaminooxy)-propanoic acid methyl ester (CAS No. 97164-30-2, 300 mg, 1.585 mmol) were added methanol (3 ml) and isopropylamine (1.4 ml), and the mixture was stirred at 55° C. for 14 hours. Additional isopropylamine (1.0 ml) was added, and the mixture was stirred for 3 hours using a focused microwave synthesis system (Discover™, CEM) at 100 W. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give N-(2-isopropylcarbamoyl-ethoxy)-acetimidic acid ethyl ester (46 mg, 13% yield).

reactant | 3-(1-ethoxy-ethylideneaminooxy)-propanoic acid methyl ester | COC(CCON=C(C)OCC)=O | C8H15NO4
reactant | isopropylamine | 1.4 ml | C(C)(C)N | C3H9N
reactant | isopropylamine | 1.0 ml | C(C)(C)N | C3H9N
solvent | methanol | 3 ml | CO | CH4O
product | N-(2-isopropylcarbamoyl-ethoxy)-acetimidic acid ethyl ester | 46 mg, 13% yield | C(C)OC(C)=NOCCC(NC(C)C)=O | C10H20N2O3
